US03959289
a. 1-Fluoro-2,6-dinitrobenzene
A mixture of 1-chloro-2,6-dinitrobenzene (30 grams), anhydrous potassium fluoride (35 grams), and dimethylformamide (50 ml.) is refluxed for 24 hours. The reaction mixture is poured into water (250 ml.) and extracted with ether (3 × 100 ml.). The combined ether extracts are dried with anhydrous sodium sulfate. Removal of the solvent leaves brown solid. Chromatography of the solid on silica gel with methylene chloride as the elutant gives a light yellow solid after recrystallization from pentane-methylene chloride. (20.30 grams, melting point 50°).

reactant | 1-chloro-2,6-dinitrobenzene | 30 grams | ClC1=C(C=CC=C1[N+](=O)[O-])[N+](=O)[O-] | C6H3ClN2O4
reactant | potassium fluoride | 35 grams | [F-].[K+]
reactant | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
reactant | water | 250 ml | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-Fluoro-2,6-dinitrobenzene | FC1=C(C=CC=C1[N+](=O)[O-])[N+](=O)[O-] | C6H3FN2O4
